US04985432
A mixture of 12.2 g of the thus obtained 2-benzylthio-7-chloro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one and 124 g of 57% hydroiodic acid was heated to 100°-105° C. and stirred for 4 hours. After cooling, the mixture was filtered and the solid was washed with water and dissolved in chloroform. The organic layer was washed with a sodium hydrogen carbonate aqueous solution, a sodium thiosulfate aqueous solution and water, and dried over anhydrous sodium sulfate. The solvent was distilled off and thus 13.9 g of 55% pure 2-benzylthio-7-iodo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 48%.

reactant | 2-benzylthio-7-chloro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=O)Cl)S1 | C12H8ClN3OS2
reactant | hydroiodic acid | 124 g | I | HI
product | 2-benzylthio-7-iodo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 13.9 g, 55% | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=O)I)S1 | C12H8IN3OS2
